US08466186B2
(h) N-{2-Fluoro-4-chloro-3-[5-chloro-1-methyl-6-(4-fluoro-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-2,2-dimethyl-propionamide
The title compound is prepared from N-(4-chloro-2-fluoro-3-isothiocyanato-benzyl)-2,2-dimethyl-propionamide and 5-chloro-2-methylamino-4-(4-fluoropiperidin-1-yl)-aniline and DIC in analogy to example 51.

reactant | N-(4-chloro-2-fluoro-3-isothiocyanato-benzyl)-2,2-dimethyl-propionamide | ClC1=C(C(=C(CNC(C(C)(C)C)=O)C=C1)F)N=C=S | C13H14ClFN2OS
reactant | 5-chloro-2-methylamino-4-(4-fluoropiperidin-1-yl)-aniline | ClC=1C(=CC(=C(N)C1)NC)N1CCC(CC1)F | C12H17ClFN3
reactant | DIC | CC(N=C=NC(C)C)C | C7H14N2
product | N-{2-Fluoro-4-chloro-3-[5-chloro-1-methyl-6-(4-fluoro-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-2,2-dimethyl-propionamide | Yield: 49% | FC1=C(CNC(C(C)(C)C)=O)C=CC(=C1NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CCC(CC2)F)Cl | C25H29Cl2F2N5O
